datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([O:4][H:10])[H:6])[H:5].[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[O:4]([H:10])[H:11],68.9055
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],136.273
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15]#[C:14][H:17])([H:18])[H:19])[H:6],39.8317
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])([H:9])[H:10])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])([H:9])[H:10])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:16])[H:6].[C:11](=[C:12][C:13]([H:17])([H:18])[H:19])([H:14])[H:15],101.253
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5][O:6][H:7]>>[H:4][O:5][O:6][H:7].[O:0]=[C:1]([O:2])[H:3],105.461904
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:13])[H:12])([H:10])[H:11],67.3206
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25])[H:13])([H:10])([H:11])[H:12],37.0284
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([O:10])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:10][C:9]([H:11])([H:12])[H:13],10.8784
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[H:33])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:30])[H:31])[H:32])([C:29]([H:34])([H:35])[H:36])[H:33])[H:14])([H:12])[H:13],51.2958
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:4])([H:5])[H:6],0.0
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:12])([H:9])([H:10])[H:11],90.2489
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([S:13][H:19])[C:14](=[S:15])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:16])([H:17])[H:18])([S:13][H:19])[C:14](=[S:15])[H:20],117.989
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])=[C:9]([C:10]([H:28])([H:29])[H:30])[C:11](=[C:12]([H:32])[H:33])[H:31])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([H:23])([H:24])[C:7]([C:8]([H:25])([H:26])[H:27])[C:9]1([C:10]([H:28])([H:29])[H:30])[C:11](=[C:12]([H:32])[H:33])[H:31])[H:15])([H:13])[H:14],84.3494
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:18])[H:19])[H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:5]([H:17])[C:6]1([H:18])[H:19],25.9408
